US06503922B2
To a stirred solution of cis-1-methyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinoline (120 mg, 0.64 mmol) in AcOH (2 ml) was added 1-iodoundecane (542 mg, 1.92 mmol). The mixture was heated at reflux under nitrogen for 3 days. AcOH was evaporated and the residue was dissolved in CHCl3. The mixture was washed with saturated aqueous NaHCO3, water and brine successively and dried. Evaporation of the solvent followed by titration with ether afforded 210 mg (70%) of cis-1-methyl-8-undecyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-8-ium iodide (ACU) as a brown oil. 1H NMR (300 MHz, CDCl3) δ9.16 (1H, s, C9-H), 9.07 (1H, d, J6.0 Hz, C7-H), 7.81 (1H, d, J6.0 Hz, C6-H), 4.82 (2H, m. pyCH2), 3.44 (1H, d, J8.4 Hz, C9b-H), 2.29 (3H, s, NCH3), 1.50-3.10 (9H, m, CH2+CH), 1.95 (2H, m, pyCH2CH2), 1.00-1.40 (16H, m, 8×CH2), 0.76 (3H, t, J6.9 Hz, CH2CH3); 13C NMR (75 MHz, CDCl3) δ161.5, 143.2, 142.4, 138.8, 127.5, 63.1, 61.0, 55.7, 41.0, 35.6, 32.0, 31.8, 30.0, 29.51, 29.48, 29.4, 29.2, 29.1, 28.1, 27.3, 26.0, 22.6, 14.1.

reactant | cis-1-methyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinoline | 0.64 mmol, 120 mg | CN1CC[C@H]2CCC=3C=CN=CC3[C@H]21 | C12H16N2
reactant | 1-iodoundecane | 1.92 mmol, 542 mg | ICCCCCCCCCCC | C11H23I
solvent | AcOH | 2 ml | CC(=O)O | C2H4O2
product | cis-1-methyl-8-undecyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-8-ium iodide | 210 mg, 70% | [I-].CN1CC[C@H]2CCC=3C=C[N+](=CC3[C@H]21)CCCCCCCCCCC | InChI=1S/C23H39N2.HI/c1-3-4-5-6-7-8-9-10-11-16-25-18-15-20-12-13-21-14-17-24(2)23(21)22(20)19-25;/h15,18-19,21,23H,3-14,16-17H2,1-2H3;1H/q+1;/p-1/t21-,23+;/m1./s1
